US05891909
b) 3-(5-Isoquinolinylsulfonyloxy)-5-methylphenol
Orcinol monohydrate (1.42 g, 10.0 mmol) and 5-isoquinolinesulfonyl chloride (2.64 g, 10.0 mmol), as prepared in the preceding step, were mixed in saturated aqueous NaHCO3 (30 mL) and diethyl ether (30 mL). The biphasic mixture was stirred vigorously at ambient temperature overnight. The reaction mixture was diluted with water (50 mL) and extracted into ethyl acetate (3×50 mL). The organic phase was washed with brine (2×50 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was triturated from ether/hexane to give the title compound as a pale yellow solid (1.15 g, 37%). 1H-NMR (300 MHz, CDCl3) δ 9.67 (s, 1H), 9.60 (s, 1H), 8.86 (d, J=6.1 Hz, 1H), 8.63 (d, J=8.2 Hz, 1H), 8.37 (t, J=6.1 Hz, 2H), 7.86 (t, J=7.8 Hz, 1H), 6.46 (s, 1H), 6.23 (s, 1H), 5.97 (s, 1H), 2.08 (s, 3H).

reactant | Orcinol monohydrate | 10.0 mmol, 1.42 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | 5-isoquinolinesulfonyl chloride | 10.0 mmol, 2.64 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
solvent | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | water | 50 mL | O | H2O
product | 3-(5-Isoquinolinylsulfonyloxy)-5-methylphenol | 1.15 g, 37% | C1=NC=CC2=C(C=CC=C12)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C16H13NO4S
